US04350752
1-Phenyl-4-(phthalimidomethyl)-2-tetrazoline-5-thione
A solution of 1-phenyl-4-chloromethyltetrazoline-5-thione (4.53 g) and potassium phthalimide (4.00 g) in 50 ml dimethylformamide was heated at 55° C. for 2 hours. The solution was poured into water. Ethyl acetate extractive workup gave a colorless solid. Recrystallization from ethanol afforded a colorless solid, m.p. 130°-134° C. (2.75 g).

reactant | 1-phenyl-4-chloromethyltetrazoline-5-thione | 4.53 g | C1(=CC=CC=C1)N1N=NN(C1=S)CCl | C8H7ClN4S
reactant | potassium phthalimide | 4.00 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-Phenyl-4-(phthalimidomethyl)-2-tetrazoline-5-thione | C1(=CC=CC=C1)N1N=NN(C1=S)CN1C(C=2C(C1=O)=CC=CC2)=O | C16H11N5O2S
